US07786044B2
35. Preparation of 6-Amino-5-((E)-2-bromovinyl)-2-(4-chloro-2-fluoro-3-methoxyphenyl)pyrimidine-4-carboxylic acid methyl ester (Compound 37)
6-Amino-2-(4-chloro-2-fluoro-3-methoxyphenyl)-5-vinylpyrimidine-4-carboxylic acid methyl ester (0.720 g, 2.13 mmol) was dissolved in chloroform (20 mL) and bromine (0.511 g, 3.2 mmol) was added. The reaction mixture was stirred at ambient temperature for 2 h then concentrated under vacuum. The product was dissolved in dichloromethane (20 mL), treated with triethylamine (0.430 g, 4.26 mmol), stirred at ambient temperature for 2 h, and then concentrated under vacuum. The product was purified by flash chromatography on silica gel (dichloromethane/ethyl acetate gradient) to provide the title compound (0.5 g, 56% yield over two steps) as a white solid, mp 171-173° C.: 1H NMR (CDCl3) δ 7.66 (dd, 1H), 7.22 (dd, 1H), 7.22 (d, 1H), 6.72 (d, 1H), 5.37 (br s, 2H), 4.0 (s, 3H), 3.97 (s, 3H).

reactant | 6-Amino-2-(4-chloro-2-fluoro-3-methoxyphenyl)-5-vinylpyrimidine-4-carboxylic acid methyl ester | 2.13 mmol, 0.720 g | COC(=O)C1=NC(=NC(=C1C=C)N)C1=C(C(=C(C=C1)Cl)OC)F | C15H13ClFN3O3
reactant | bromine | 3.2 mmol, 0.511 g | BrBr | Br2
reactant | triethylamine | 4.26 mmol, 0.430 g | C(C)N(CC)CC | C6H15N
solvent | chloroform | 20 mL | C(Cl)(Cl)Cl | CHCl3
product | 6-Amino-5-((E)-2-bromovinyl)-2-(4-chloro-2-fluoro-3-methoxyphenyl)pyrimidine-4-carboxylic acid methyl ester | 0.5 g, 56% yield | COC(=O)C1=NC(=NC(=C1\C=C\Br)N)C1=C(C(=C(C=C1)Cl)OC)F | C15H12BrClFN3O3
